US08044090B2
7-Chloro-1H-indole
Dissolve 1-(2-amino-3-chlorophenyl)-2-chloroethanone (7.0 g, 34.30 mmol) in 10% aqueous 1,4-dioxane (75 mL). Carefully add NaBH (2.6 g, 68.6 mmol, 2 eq.) as a solid. Heat to reflux. After 4 hours, cool to room temperature, dilute with water (300 mL), and extract with dichloromethane (2×200 mL). Combine the organic layers, dry over MgSO4, filter, and remove the solvent in vacuo leaving a light brown oil in the flask. Purify the oil by HPLC (silica gel mobile phase: 100% hexane to 50% EtOAc in hexanes over 50 minutes), to give the title compound as a brown oil: 1H NMR (300 MHz, d6-DMSO-d6): 5.16 (m, 1H), 5.39 (d, 1H), 5.70 (bs, 1H), 6.59 (t, 1H), 7.09 (m, 2H); MS (ES+): m/z 154, 152 (M+H)+.

reactant | 1-(2-amino-3-chlorophenyl)-2-chloroethanone | 34.30 mmol, 7.0 g | NC1=C(C=CC=C1Cl)C(CCl)=O | C8H7Cl2NO
solvent | 1,4-dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | water | 300 mL | O | H2O
product | 7-Chloro-1H-indole | ClC=1C=CC=C2C=CNC12 | C8H6ClN
